US04752646
rac-2-chloro-3,4-dihydro-2,5,7,8-tetramethyl-6-(phenylmethoxy)-2H-1-benzopyran
A mixture of 10 g of rac-2-methoxy-3,4-dihydro-2,5,7,8-tetramethyl-6-(phenylmethoxy)-2H-1-benzopyran, 10 g of calcium chloride, 100 ml of hexane and 50 ml of diethyl ether was stirred at -5° to -10° C. while HCl gas was bubbled in for 1 hr. An additional 10 g of calcium chloride was added and stirring was continued at room temperature for 2 hr. The mixture was filtered and the filtrate was concentrated in vacuo giving 10.2 g of title product as a light-brown oil. Proton NMR analysis revealed that this product consisted of 66% of the title compound and 33% of the starting 2-methoxy chroman.

reactant | rac-2-methoxy-3,4-dihydro-2,5,7,8-tetramethyl-6-(phenylmethoxy)-2H-1-benzopyran | 10 g | COC1(OC2=C(CC1)C(=C(C(=C2C)C)OCC2=CC=CC=C2)C)C | C21H26O3
reactant | calcium chloride | 10 g | [Cl-].[Ca+2].[Cl-]
reactant | hexane | 100 ml | CCCCCC | C6H14
reactant | HCl | Cl | ClH
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | rac-2-chloro-3,4-dihydro-2,5,7,8-tetramethyl-6-(phenylmethoxy)-2H-1-benzopyran | 10.2 g | ClC1(OC2=C(CC1)C(=C(C(=C2C)C)OCC2=CC=CC=C2)C)C | C20H23ClO2
